US06452032B1
(Z)-4-[2-(3,5-Di-tert-butylphenyl)-2-trimethylsilanylvinyl]benzyl Alcohol (Compound 32)
Following General Procedure A, 4-[(trimethylsilyl)ethynyl]benzyl tert-butyldiphenylsilyl ether and 1-bromo-3,5-Di-tert-butylbenzene (which can be prepared by the procedure described in Komen and Bickel Synth. Commun, 1996, 26, 1693-1698) were coupled to give the title compound (Compound 32). PNMR (300 MHz, CDCl3) δ7.40 (s, 4H), 7.33 (s, 2H), 7.08 (s, 1H), 7.07(s, 1H), 4.78 (d, J=5.9 Hz, 1H), 1.41 (s, 18H), 0.00 (s, 9H).

reactant | 4-[(trimethylsilyl)ethynyl]benzyl tert-butyldiphenylsilyl ether | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=C(C=C1)C#C[Si](C)(C)C | C28H34OSi2
reactant | 1-bromo-3,5-Di-tert-butylbenzene | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
product | (Z)-4-[2-(3,5-Di-tert-butylphenyl)-2-trimethylsilanylvinyl]benzyl Alcohol | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)/C(=C/C1=CC=C(CO)C=C1)/[Si](C)(C)C | C26H38OSi
